US05349067
19.07 g (0.1 mol) of tosyl chloride, 12.12 g (0.1 mol) of N,N-dimethylaniline and 10.1 g (0.1 mol) of triethylamine were dissolved in 60 g of tetrahydrofuran, and, after cooling to 10° C., there was added 10.81 g (0.1 mol) of benzyl alcohol. While suppressing excessive elevation of the temperature, the reaction was allowed for 5 hours. After the completion of the reaction, the mixture was concentrated, and the precipitated white solid was washed with ether and dried to give N-benzyl-N,N-dimethylanilinium tosylate. Yield: 70%.

reactant | tosyl chloride | 0.1 mol, 19.07 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | N,N-dimethylaniline | 0.1 mol, 12.12 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | triethylamine | 0.1 mol, 10.1 g | C(C)N(CC)CC | C6H15N
reactant | benzyl alcohol | 0.1 mol, 10.81 g | C(C1=CC=CC=C1)O | C7H8O
solvent | tetrahydrofuran | 60 g | O1CCCC1 | C4H8O
product | N-benzyl-N,N-dimethylanilinium tosylate | Yield: 70% | S(=O)(=O)([O-])C1=CC=C(C)C=C1.C(C1=CC=CC=C1)[N+](C1=CC=CC=C1)(C)C | InChI=1S/C15H18N.C7H8O3S/c1-16(2,15-11-7-4-8-12-15)13-14-9-5-3-6-10-14;1-6-2-4-7(5-3-6)11(8,9)10/h3-12H,13H2,1-2H3;2-5H,1H3,(H,8,9,10)/q+1;/p-1
